US07947727B2
N-Ethyl-2-methyl-N-(3,3,3-trifluoro-2-hydroxy-2-{[(1-phenyl-1H-indazol-4-yl)amino]methyl}propyl)benzamide
Prepared similarly to Example 1 from 2-methylbenzoic acid and 3-(ethylamino)-1,1,1-trifluoro-2-{[(1-phenyl-1H-indazol-4-yl)amino]methyl}-2-propanol.

reactant | 2-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | 3-(ethylamino)-1,1,1-trifluoro-2-{[(1-phenyl-1H-indazol-4-yl)amino]methyl}-2-propanol | C(C)NCC(C(F)(F)F)(O)CNC1=C2C=NN(C2=CC=C1)C1=CC=CC=C1 | C19H21F3N4O
product | N-Ethyl-2-methyl-N-(3,3,3-trifluoro-2-hydroxy-2-{[(1-phenyl-1H-indazol-4-yl)amino]methyl}propyl)benzamide | C(C)N(C(C1=C(C=CC=C1)C)=O)CC(C(F)(F)F)(CNC1=C2C=NN(C2=CC=C1)C1=CC=CC=C1)O | C27H27F3N4O2
